* c:\spb_data\esim-workspace\xor\xor.cir

* u3  net-_u1-pad1_ net-_u1-pad3_ net-_u3-pad3_ nand_gate
* u2  net-_u1-pad3_ net-_u1-pad2_ net-_u2-pad3_ nand_gate
* u4  net-_u3-pad3_ net-_u2-pad3_ in nand_gate
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ nand_gate
v1  in net-_u1-pad1_ pulse(0 5 0 0.001n 0.001n 5n 10n)
v2  net-_u1-pad2_ in pulse(0 5 0 0.001n 0.001n 10n 20n)
a1 [net-_u1-pad1_ ] [net-_u1-pad3_ ] [net-_u3-pad3_ ] u3
a2 [net-_u1-pad3_ ] [net-_u1-pad2_ ] [net-_u2-pad3_ ] u2
a3 [net-_u3-pad3_ ] [net-_u2-pad3_ ] [in ] u4
a4 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
* Schematic Name:                             nand_gate, NgSpice Name: nand_gate
.model u3 nand_gate(rise_delay=1 fall_delay=1 input_load=1 instance_id=3 ) 
* Schematic Name:                             nand_gate, NgSpice Name: nand_gate
.model u2 nand_gate(rise_delay=1 fall_delay=1 input_load=1 instance_id=2 ) 
* Schematic Name:                             nand_gate, NgSpice Name: nand_gate
.model u4 nand_gate(rise_delay=1 fall_delay=1 input_load=1 instance_id=4 ) 
* Schematic Name:                             nand_gate, NgSpice Name: nand_gate
.model u1 nand_gate(rise_delay=1 fall_delay=1 input_load=1 instance_id=1 ) 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
